2154-02-07 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2154-2-6**] 08:20 PM
   TL POWER PICC
 BLOOD CULTURED - At [**2154-2-6**] 09:41 PM
   BC x 2
 URINE CULTURE - At [**2154-2-6**] 09:41 PM
 NASAL SWAB - At [**2154-2-6**] 09:41 PM
   MRSA
 INVASIVE VENTILATION - START [**2154-2-7**] 03:44 AM
   --UA positive started CTX and d/c foley
   --pt acute episode of hypoxia down to the 50-60% on NRB. Pt never lost
   pulse or conciousness. Hypotensive with SBP 70's. Pt intubated for
   respiratory failure.
   -- CXR nothing acute, but layering effusion on left
   -- a-line placed. Pt hypotensive requiring levophed and vasopressin
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2154-2-7**] 02:45 AM
   Cefipime - [**2154-2-7**] 07:32 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,250 units/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2154-2-6**] 09:30 PM
   Morphine Sulfate - [**2154-2-6**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-7**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.2
   HR: 69 (65 - 111) bpm
   BP: 104/50(71) {85/48(62) - 125/58(83)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    404 mL
                                                                  1,466 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                     64 mL
                                                                  1,366 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                    205 mL
                                                                    350 mL
   Urine:
                                                                    205 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    199 mL
                                                                  1,116 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 22.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/54/253/29/7
   Ve: 8.8 L/min
   PaO2 / FiO2: 422
   Physical Examination
   GENERAL: NAD. extremely thin and cachectic, Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera icteric. PERRL, EOMI.
   NECK: Supple with flat
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g.
   LUNGS: Right chest tube in plce, Resp were unlabored, no accessory
   muscle use. diminished BS at bases L>R, crackles b/l crackles, no
   wheezes or rhonchi
   ABDOMEN: Soft, NT, mildly disteneded, +fluid wave
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   308 K/uL
   9.5 g/dL
   176 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.0 mEq/L
   31 mg/dL
   91 mEq/L
   134 mEq/L
   28.7 %
   23.4 K/uL
        [image002.jpg]
                             [**2154-2-6**]  07:32 PM
                             [**2154-2-7**]  04:35 AM
                             [**2154-2-7**]  04:38 AM
   WBC
   11.4
   23.4
   Hct
   26.1
   28.7
   Plt
   227
   308
   Cr
   0.8
   0.9
   TCO2
   35
   Glucose
   95
   176
   Other labs: PT / PTT / INR:15.3/150.0/1.3, ALT / AST:14/55, Alk Phos /
   T Bili:155/3.6, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:4.4 mmol/L, Albumin:4.7 g/dL,
   LDH:201 IU/L, Ca++:10.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   Assesment: history of breast cancer, hemochromatosis, hepatic
   encephalopathy, s/p TIPS [**2154-1-13**], hepatic hydrothorax who is
   transferred for transplant evaluation
   .
   # RESPIRATORY FAILURE: Likely multifactorial in setting of hydrothorax,
   secretions placing her at risk for mucous plugging, pre-existing
   axillary DVT leading to PE, re-expansion edema, possibly
   hepatopulmonary syndrome with orthodeoxia, aspiration etc. Given rapid
   improvement however most likely aspiration event
   -- Wean vent as possible, PaO2 goal > 65
   -- Would bronch this morning to evaluate left lower lobe, washings
   -- Hold heparin for bronch
   -- Decrease FIO2 today
   -- Would consult IP for possible pleurodesis
   -- Would defer CTA at this time given pt is already on heparin gtt, at
   risk of hepatic failure
   # SHOCK:: Acute increase in WBC post intubation with bandemia, DDx
   would also include aspiration with resulting inflammatory response,
   worsening underlying PNA, UTI, SBP, Bacteremia, C diff, etc. Also given
   acute rise would suspect aspiration with severe inflammatory response.
   - Levophed / Vasopressin titrate to goal MAP > 65 given poor toleration
   of levophed
   - ECHO for cardiac involvement of hemochromatosis
   - Vanc / Cefepime
   - Would add Flagyl
   - Diagnostic paracentesis today
   - send blood, urine and stool c. diff
   - hold on antibiotics for now
   - Trend WBC count fever curve.
   - Maintain MAPS > 60
   - if fevers, abdominal pain or MS changes consider diagnostic para
   # Hemochromatosis: Pt with MELD score of 9. She was diagnosed with
   hemochromatosis in [**11-12**] and has been stable. However, her course has
   recently been complicated by recurrent ascites, pleural effusions and
   hepatic encephalopathy following TIPS procedure. She is being
   transferred for liver transplant eval. Currently no evidence of
   encephalopathy or asterexsis.
   - f/u with Liver team recs
   - RUQ US for TIPS patency / flow rate once stable (odered for [**2154-2-8**])
   - cont home lasix 40mg daily and spironolactone 100mg daily
   - lactulose TID titrated to 3 BM per day
   - Consider [**Last Name (LF) 13057**], [**First Name3 (LF) **] clarify systemic antibiotics first
   - 25g albumin x1 per liver
   .
   #. Hepatic Hydrothorax: Pt with recurent pleural effusions likely
   secondary from ascites.  She underwent chest tube placement at OSH and
   has been draining 500cc per day.  Cultures at OSH negative and no
   evidence of infection.
   - Ongoing drainage
   - consider thoracics consult for pleurodesis
   .
   #. Axially DVT: Pt with axillary DVT at OSH. Although no radiology
   report. Pt was on heparin at OSH.  Will plan to continue for now.
   - cont heparin gtt
   - obtain records from [**Location (un) 4725**] regarding radiology report
   .
   #. Anemia: Pt with Hct 26.1, up from OSH of 24. No evidence of active
   bleeding, but on heparin gtt.
   - Transfuse 1U PRBC
   - cont to monitor Hct q12
   - T&S
   - guaiac stools
   .
   #. Metabolic Alkalosis: Pt with bicarb of 38. Possibly from diuresis
   with lasix at OSH.  Has trended up over the last few days.
   - cont to trend
   .
   # FEN: low salt with supplements. Nutrition consult for poor po intake
   .
   # Access: R PICC
   .
   # PPx: PPI, bowel regimen, heparin gtt
   .
   # Code: FULL
   .
   # Dispo: [**Hospital 1025**] transfer to floor tomorrow
   .
   # Comm:   HCP [**Name (NI) **] [**Name (NI) 13038**]) [**Telephone/Fax (1) 13039**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-2-6**] 08:20 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2154-02-07 10:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo woman w/ hemochromatosis and resultant cirrhosis, s/p TIPS on
   [**2154-1-13**] for hydrothorax, complicated by post-TIPS encephalopathy.
   Admitted to OSH on [**1-19**] for [**Hospital 13056**] hosp course there notable
   for resp failure due to hydrothorax and s/p chest tube drainage and
   diuresis, intubated until [**1-30**]. Also notable for C diff, VRE
   bacteremia, axillary DVT, SVT. Transferred here overnight for
   transplant liver eval and initially clinically stable.
   24 Hour Events:
   Overnight developed acute hypoxemic resp failure, unresponsive to NRB
   --> intubated. Also w/ progressive hypotension unresponsive to 50g
   albumin and NS boluses --> started on Levophed and vasopressin.
   Developed afib w/ RVR, pressors changed to vasopressin and
   phenylephrine. A line placed.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2154-2-7**] 02:45 AM
   Cefipime - [**2154-2-7**] 07:32 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,250 units/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2154-2-6**] 09:30 PM
   Morphine Sulfate - [**2154-2-6**] 10:10 PM
   Other medications:
   Aldactone 100, Lasix 40, Lactulose, Colace, Lidocaine patch,
   omeprazole, tamoxifen, Peridex, Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-7**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.2
   HR: 68 (65 - 111) bpm
   BP: 98/46(64) {75/37(53) - 125/58(83)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    404 mL
                                                                  1,549 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                     64 mL
                                                                  1,449 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                    205 mL
                                                                    395 mL
   Urine:
                                                                    205 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    199 mL
                                                                  1,154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 25.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/49/119/29/8
   Ve: 7.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bilaterally), R chest
   tube site c/d/i
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, +
   fluid wave
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   308 K/uL
   176 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.0 mEq/L
   31 mg/dL
   91 mEq/L
   134 mEq/L
   28.7 %
   23.4 K/uL
        [image002.jpg]
                             [**2154-2-6**]  07:32 PM
                             [**2154-2-7**]  04:35 AM
                             [**2154-2-7**]  04:38 AM
                             [**2154-2-7**]  08:34 AM
   WBC
   11.4
   23.4
   Hct
   26.1
   28.7
   Plt
   227
   308
   Cr
   0.8
   0.9
   TCO2
   35
   34
   Glucose
   95
   176
   Other labs: PT / PTT / INR:15.3/150.0/1.3, ALT / AST:14/55, Alk Phos /
   T Bili:155/3.6, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:4.4 mmol/L, Albumin:4.7 g/dL,
   LDH:201 IU/L, Ca++:10.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Fluid analysis / Other labs: UA-dirty
   Imaging: CXR (7pm yest)- L pleural effusion, partial collapse LLL
   CXR (3am today)- intubated, R chest tube in place, increased L lung
   inflation
   Microbiology: urine, blood- pending
   ECG: ECG o/n- afib w/ RVR
   Assessment and Plan
   62 yo woman w/ cirrhosis d/t hemochromatosis, c/b hepatic hydrothorax
   s/p TIPS [**2154-1-13**] w/ resultant encephalopathy. Complicated OSH course as
   described above. Active issues include acute hypoxemic resp failure,
   shock.
   (1) ACUTE HYPOXEMIC RESP FAILURE- DDx includes underlying effusion,
   poss superimposed pna vs plug/ acute lobar collapse; PE
   - cont mech ventilation; wean FiO2 for goal PaO2 >60. Can assess
   spontaneous breathing capacity today
   - diag bronch today w/ BAL LLL based on OSH CT scan ([**1-28**])
   - ABX as below
   (2) SHOCK- DDx includes septic shock (sources include pulm, urine, GI,
   C diff), consider also cardiogenic, adrenal insuff
   -cont cefepime, add metronidazole; change vanco to linezolid for prior
   VRE bacteremia
   -pan-culture (BAL, sputum, urine, blood, C diff)
   -check TTE
   -add on am cortisol
 8, will proceed with [**Last Name (un) 402**] stim
   -will pull PICC and place CVC to monitor CVP; cont fluid resuscitation,
   give 1uprbc and cont to minimize sedation
   (3) CIRRHOSIS- c/b encephalopathy and hydrothorax
   -cont lactulose
   -hold Aldactone and Lasix given shock state
   -trend LFTs and coags
   (4) AXILLARY DVT- cont heparin gtt
   ICU Care
   Nutrition:
   Comments: npo for now
   Glycemic Control:
   Lines:
   PICC Line - [**2154-2-6**] 08:20 PM
   Comments: plan to pull and place CVC today, a line
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: friend [**Name (NI) **] updated
   Code status: Full code
   Disposition :ICU
   Total time spent: 78 minutes
   Patient is critically ill

2154-02-08 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2154-2-7**] 10:41 AM
   c diff
 SPUTUM CULTURE - At [**2154-2-7**] 10:41 AM
 BRONCHOSCOPY - At [**2154-2-7**] 12:45 PM
 TRANSTHORACIC ECHO - At [**2154-2-7**] 03:08 PM
 MULTI LUMEN - START [**2154-2-7**] 09:03 PM
 PICC LINE - STOP [**2154-2-8**] 02:00 AM
   TL POWER PICC
 BLOOD CULTURED - At [**2154-2-8**] 05:03 AM
   BC x 2 (TLC & ALINE)
   -Liver recs: send pleural fluid for culture/cytology, U/S w/dopplers
   and cardiac enzymes to ROMI; agree w/our plan otherwise
   -CVL placed, PICC removed
   -Bronch unrevealing
   -Repeat Hct at 3pm:27.3 (from 28); thus repeat at 6pm:
   -Cortisol 8.6 -->cortstim ordered -hydrocort 50q6 ordered
   -ECHO done:
   The left atrium is mildly dilated. Left ventricular wall thicknesses
   are normal. The left ventricular cavity size is normal. Left
   ventricular systolic function is hyperdynamic (EF 70-80%). Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets (3) appear structurally normal with good leaflet
   excursion and no aortic regurgitation. The mitral valve leaflets are
   mildly thickened. There is no mitral valve prolapse. There is
   borderline pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   -Abdominal U/S w/dopplers: pending
   -Cardiac enzymes negative
   -UOP: gave 500cc bolus 2pm, only 15cc hr so gave add'l 500cc but after
   CVL placed CVP 10; gave 20mg IV lasix and UOP 240
   -Briefly off pressors overnight after Hydrocort started however resumed
   on small dose this AM
   -on PSV 40% 10/5 this AM; doing well 7.32/46/177
   -Culture data: Sputum Gram stain negative, c.diff neg, all else pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2154-2-7**] 02:45 AM
   Cefipime - [**2154-2-7**] 08:00 PM
   Linezolid - [**2154-2-8**] 02:00 AM
   Metronidazole - [**2154-2-8**] 04:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2154-2-7**] 05:52 PM
   Furosemide (Lasix) - [**2154-2-8**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-8**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.8
C (96.4
   HR: 56 (50 - 77) bpm
   BP: 110/47(71) {86/38(58) - 135/57(85)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CVP: 9 (6 - 12)mmHg
   Total In:
                                                                  4,817 mL
                                                                    730 mL
   PO:
   TF:
   IVF:
                                                                  4,222 mL
                                                                    730 mL
   Blood products:
                                                                    475 mL
   Total out:
                                                                    752 mL
                                                                    525 mL
   Urine:
                                                                    547 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,065 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 340 (340 - 380) mL
   PS : 10 cmH2O
   RR (Set): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/46/177/27/5
   Ve: 8 L/min
   PaO2 / FiO2: 443
   Physical Examination
   GENERAL: NAD. extremely thin and cachectic, Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera icteric. PERRL, EOMI.
   NECK: Supple with flat
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g.
   LUNGS: Right chest tube in plce, Resp were unlabored, no accessory
   muscle use. diminished BS at bases L>R, crackles b/l crackles, no
   wheezes or rhonchi
   ABDOMEN: Soft, NT, mildly disteneded, +fluid wave
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   197 K/uL
   8.3 g/dL
   156 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.1 mEq/L
   32 mg/dL
   98 mEq/L
   136 mEq/L
   25.7 %
   10.8 K/uL
        [image002.jpg]
                             [**2154-2-6**]  07:32 PM
                             [**2154-2-7**]  04:35 AM
                             [**2154-2-7**]  04:38 AM
                             [**2154-2-7**]  08:34 AM
                             [**2154-2-7**]  02:18 PM
                             [**2154-2-7**]  05:46 PM
                             [**2154-2-7**]  10:40 PM
                             [**2154-2-8**]  05:20 AM
                             [**2154-2-8**]  05:44 AM
   WBC
   11.4
   23.4
   27.0
   10.8
   Hct
   26.1
   28.7
   27.3
   27.3
   25.7
   Plt
   227
   308
   232
   197
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   TropT
   0.02
   0.01
   0.02
   TCO2
   35
   34
   31
   Glucose
   95
   176
   126
   99
   156
   Other labs: PT / PTT / INR:16.0/150.0/1.4, CK / CKMB /
   Troponin-T:14/2/0.02, ALT / AST:15/44, Alk Phos / T Bili:114/2.8,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:3.0
   %, Lactic Acid:1.7 mmol/L, Albumin:4.7 g/dL, LDH:159 IU/L, Ca++:9.6
   mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assesment: history of breast cancer, hemochromatosis, hepatic
   encephalopathy, s/p TIPS [**2154-1-13**], hepatic hydrothorax who is
   transferred for transplant evaluation
   .
   # RESPIRATORY FAILURE: Likely multifactorial in setting of hydrothorax,
   secretions placing her at risk for mucous plugging, pre-existing
   axillary DVT leading to PE, re-expansion edema, possibly
   hepatopulmonary syndrome with orthodeoxia, aspiration etc. Given rapid
   improvement however most likely aspiration event and/or plugging.
   Bronch unrevealing. Currently on an SBT and doing well
   --Check RSBI and abg after SBT and consider extubation
   -- Would consult IP for possible pleurodesis
   -- Continue antibiotics as below
   --Continue heparin gtt
   # SHOCK:: Currently resolving. Acute increase in WBC post intubation
   with bandemia, DDx would also include aspiration with resulting
   inflammatory response, worsening underlying PNA, UTI, SBP, Bacteremia,
   C diff, etc. Also given acute rise would suspect aspiration with severe
   inflammatory response. Cortisol low and [**Last Name (un) 402**] stim with evidence of
   adrenal insuffiency. WBC improved from 28 to 10 today. No evidence of
   hemochromatosis on ECHO to point towards cardiogenic shock. (EF
   hyperdynamic 70%)
   - Levophed / Vasopressin titrate to goal MAP > 65
 wean prn
   --Continue hydrocort 50mg q6 given low cortisol, positive [**Last Name (un) 402**]-stim
   - Continue Linezolid (given h/o VRE bacteremia) / Cefepime /Flagyl
   - follow up culture data
   - F/U RUQ U/S; if negative will d/c flagyl
   - Trend WBC count fever curve.
   - Maintain MAPS > 60
   - Consider IR guided para if ascites on abdominal  ultrasound
   # Hemochromatosis: Pt with MELD score of 9. She was diagnosed with
   hemochromatosis in [**11-12**] and has been stable. However, her course has
   recently been complicated by recurrent ascites, pleural effusions and
   hepatic encephalopathy following TIPS procedure. She is being
   transferred for liver transplant eval. Currently no evidence of
   encephalopathy or asterexsis.
   - f/u with Liver team recs
   - RUQ US for TIPS patency / flow rate once stable (odered for [**2154-2-8**])
   - Held lasix in setting of hypotension as above
   - lactulose TID titrated to 3 BM per day
   - Nutrition consult pending
   - Call heme regarding tranfusions, ? need chelation
   .
   #. Hepatic Hydrothorax: Pt with recurent pleural effusions likely
   secondary from ascites.  She underwent chest tube placement at OSH and
   has been draining 500cc per day.  Cultures at OSH negative and no
   evidence of infection.
   - Ongoing drainage
   - consider thoracics consult for pleurodesis
   .
   #. Axially DVT: Pt with axillary DVT at OSH. Although no radiology
   report. Pt was on heparin at OSH.  Will plan to continue for now.
   - cont heparin gtt
   - obtain records from [**Location (un) 4725**] regarding radiology report
   .
   #. Anemia: Pt with Hct 26.1, up from OSH of 24. No evidence of active
   bleeding, but on heparin gtt. s/p 1Uprbcs
   - cont to monitor Hct q12
   - T&S
   - guaiac stools
   .
   #. Metabolic Alkalosis: Pt with bicarb of 38. Possibly from diuresis
   with lasix at OSH.  Has trended up over the last few days.
   - cont to trend
   .
   # FEN: low salt with supplements. Nutrition consult for poor po intake
   .
   # Access: R PICC
   .
   # PPx: PPI, bowel regimen, heparin gtt
   .
   # Code: FULL
   .
   #Dispo: [**Hospital 1025**] transfer to floor tomorrow
   .
   # Comm:   HCP [**Name (NI) **] [**Name (NI) 13038**]) [**Telephone/Fax (1) 13039**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-2-7**] 04:20 AM
   Multi Lumen - [**2154-2-7**] 09:03 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2154-02-08 10:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo woman w/ cirrhosis d/t hemochromatosis, c/b hepatic hydrothorax
   s/p TIPS [**2154-1-13**] w/ resultant encephalopathy. Complicated OSH course as
   described above. Active issues include acute hypoxemic resp failure,
   shock.
   24 Hour Events:
   Bolused total 1L NS boluses yest pm.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2154-2-7**] 02:45 AM
   Linezolid - [**2154-2-8**] 02:00 AM
   Metronidazole - [**2154-2-8**] 04:30 AM
   Cefipime - [**2154-2-8**] 07:56 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Propofol - 30 mcg/Kg/min
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2154-2-7**] 05:52 PM
   Furosemide (Lasix) - [**2154-2-8**] 12:30 AM
   Other medications:
   lactulose held, tamoxifen, Peridex, hydrocort 50 q6, omeprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-8**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 74 (45 - 74) bpm
   BP: 110/43(66) {86/38(58) - 135/57(85)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 10 (6 - 12)mmHg
   Total In:
                                                                  4,817 mL
                                                                  1,030 mL
   PO:
   TF:
   IVF:
                                                                  4,222 mL
                                                                  1,030 mL
   Blood products:
                                                                    475 mL
   Total out:
                                                                    752 mL
                                                                    630 mL
   Urine:
                                                                    547 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,065 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 340 (340 - 380) mL
   Vt (Spontaneous): 286 (286 - 286) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 6 cmH2O
   Plateau: 21 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/46/177/27/5
   Ve: 7.8 L/min
   PaO2 / FiO2: 443
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   197 K/uL
   156 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.1 mEq/L
   32 mg/dL
   98 mEq/L
   136 mEq/L
   25.7 %
   10.8 K/uL
        [image002.jpg]
                             [**2154-2-6**]  07:32 PM
                             [**2154-2-7**]  04:35 AM
                             [**2154-2-7**]  04:38 AM
                             [**2154-2-7**]  08:34 AM
                             [**2154-2-7**]  02:18 PM
                             [**2154-2-7**]  05:46 PM
                             [**2154-2-7**]  10:40 PM
                             [**2154-2-8**]  05:20 AM
                             [**2154-2-8**]  05:44 AM
   WBC
   11.4
   23.4
   27.0
   10.8
   Hct
   26.1
   28.7
   27.3
   27.3
   25.7
   Plt
   227
   308
   232
   197
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   TropT
   0.02
   0.01
   0.02
   TCO2
   35
   34
   31
   Glucose
   95
   176
   126
   99
   156
   Other labs: PT / PTT / INR:16.0/150.0/1.4, CK / CKMB /
   Troponin-T:14/2/0.02, ALT / AST:15/44, Alk Phos / T Bili:114/2.8,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:3.0
   %, Lactic Acid:1.7 mmol/L, Albumin:4.7 g/dL, LDH:159 IU/L, Ca++:9.6
   mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: random [**Last Name (un) 402**] and stim- 8 --> 13
   Imaging: Echo- , [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 111**], EF 70-80%, no RWMAs, borderline PASP
   elevation
   RUQ U/S- pending
   Microbiology: C diff- neg
   Sputum- Gm stain neg
   BAL cytology- pending
   Urine- yeast
   Assessment and Plan
   62 yo woman w/ cirrhosis d/t hemochromatosis, c/b hepatic hydrothorax
   s/p TIPS [**2154-1-13**] w/ resultant encephalopathy. Complicated OSH course as
   described above. Active issues include acute hypoxemic resp failure,
   shock.
   (1) ACUTE HYPOXEMIC RESP FAILURE- DDx includes underlying effusion,
   poss superimposed pna vs plug/ acute lobar collapse
   - cont mech ventilation; wean FiO2 for goal PaO2 >60. Can assess
   spontaneous breathing capacity today, possible extubation
   - bronch'd yest- BAL studies pending
   - ABX as below
   (2) SHOCK- DDx includes septic shock (sources include pulm, urine, GI,
   C diff), consider also cardiogenic, adrenal insuff
   -cont linezolid + cefepime
   -pan-culture (BAL, sputum, urine, blood, C diff)
   -failed [**Last Name (un) 402**] stim --> hydrocort q6
   -echo looked reasonable
   -1u PRBC for oncotic pressure/ volume given low CVP and marginal UOP
   (3) CIRRHOSIS- c/b encephalopathy and hydrothorax
   -cont lactulose
   -hold Aldactone and Lasix given shock state
   -f/u RUQ U/S, poss TIPS revision if too small
   -trend LFTs and coags
   (4) AXILLARY DVT- cont heparin gtt
   (5) CANDIDAL UTI- change foley
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-2-7**] 04:20 AM
   Multi Lumen - [**2154-2-7**] 09:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2154-02-09 08:00:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2154-2-8**] 11:08 AM
 BLOOD CULTURED - At [**2154-2-9**] 04:30 AM
   BC x 2
   - Extubated
   - Weaned off pressors
   - RUQ with patent TIPS, flow of 65 to 140cm/sec
   - PCP [**Last Name (LF) 13091**],[**First Name3 (LF) **] will be calling for daily updates
   - Liver recs without anything new
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2154-2-7**] 02:45 AM
   Metronidazole - [**2154-2-8**] 12:00 PM
   Cefipime - [**2154-2-8**] 08:00 PM
   Linezolid - [**2154-2-9**] 02:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-9**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 67 (45 - 74) bpm
   BP: 117/52(75) {88/33(50) - 127/57(79)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 12 (2 - 21)mmHg
   Total In:
                                                                  2,436 mL
                                                                    423 mL
   PO:
   TF:
   IVF:
                                                                  1,801 mL
                                                                    423 mL
   Blood products:
                                                                    635 mL
   Total out:
                                                                  1,121 mL
                                                                    340 mL
   Urine:
                                                                    911 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,315 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 286 (286 - 286) mL
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   Bibasilar), (Breath Sounds: Bronchial: Left lower)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   148 K/uL
   9.6 g/dL
   145 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   40 mg/dL
   99 mEq/L
   136 mEq/L
   29.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2154-2-7**]  04:35 AM
                             [**2154-2-7**]  04:38 AM
                             [**2154-2-7**]  08:34 AM
                             [**2154-2-7**]  02:18 PM
                             [**2154-2-7**]  05:46 PM
                             [**2154-2-7**]  10:40 PM
                             [**2154-2-8**]  05:20 AM
                             [**2154-2-8**]  05:44 AM
                             [**2154-2-8**]  04:47 PM
                             [**2154-2-9**]  04:19 AM
   WBC
   23.4
   27.0
   10.8
   6.7
   6.5
   Hct
   28.7
   27.3
   27.3
   25.7
   29.5
   29.0
   Plt
   [**Telephone/Fax (3) 13092**]57
   148
   Cr
   0.9
   0.9
   0.9
   1.0
   1.0
   1.0
   TropT
   0.02
   0.01
   0.02
   TCO2
   35
   34
   31
   Glucose
   176
   126
   99
   156
   178
   145
   Other labs: PT / PTT / INR:14.1/73.7/1.2, CK / CKMB /
   Troponin-T:14/2/0.02, ALT / AST:[**12-1**], Alk Phos / T Bili:105/3.3,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:3.0
   %, Lactic Acid:1.7 mmol/L, Albumin:4.7 g/dL, LDH:143 IU/L, Ca++:9.8
   mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   Assesment: history of breast cancer, hemochromatosis, hepatic
   encephalopathy, s/p TIPS [**2154-1-13**], hepatic hydrothorax who is
   transferred for transplant evaluation
   .
   # RESPIRATORY FAILURE: Resolved now, successful extubation. Likely
   multifactorial in setting of hydrothorax, secretions placing her at
   risk for mucous plugging, pre-existing axillary DVT leading to PE,
   re-expansion edema, possibly hepatopulmonary syndrome with orthodeoxia,
   aspiration etc. Given rapid improvement however most likely aspiration
   event and/or plugging.   Bronch unrevealing.
   -- Would consult IP for possible pleurodesis
   -- Continue antibiotics as below
   -- Continue heparin gtt for RUE DVT
   -- Would not pursue CTA for PE eval at this time given prompt
   improvement in respiratory status
   -- Aspiration precautions, would consider swallow eval
   # SHOCK:: Currently resolving with broad spectrum antibiotics and
   stress dose sterodis. Acute increase in WBC post intubation with
   bandemia, Now significantly improved. ECHO hyperdynamic without clear
   constriction from infiltration. Able to wean vasopressin overnight
   --Continue hydrocort 50mg q6 given low cortisol, positive [**Last Name (un) 402**]-stim
   - Continue Linezolid (given h/o VRE bacteremia) / Cefepime /Flagyl
   - follow up culture data
   - Dicated RUQ U/S negative, stopped flagyl
   - Trend WBC count fever curve.
   - Consider IR guided para if ascites on abdominal  ultrasound
   # Hemochromatosis: Pt with MELD score of 9. She was diagnosed with
   hemochromatosis in [**11-12**] and has been stable. However, her course has
   recently been complicated by recurrent ascites, pleural effusions and
   hepatic encephalopathy following TIPS procedure. She is being
   transferred for liver transplant eval. Currently no evidence of
   encephalopathy or asterexsis. Pt is requiring blood transfusions for
   oncotic pressure support however and is therefore receiving futher iron
   load.
   - f/u with Liver team recs
   - RUQ US for TIPS patency final read
   - lactulose TID titrated to 3 BM per day
   - Nutrition consult pending
   - Call heme regarding tranfusions, ? need chelation
   .
   #. Hepatic Hydrothorax: Pt with recurent pleural effusions likely
   secondary from ascites.  She underwent chest tube placement at OSH and
   has been draining 500cc per day.  Cultures at OSH negative and no
   evidence of infection. Given patent TIPS, unclear etiology of hepatic
   hydrothorax, will need to entertain infectious vs malignant process as
   well
   - Ongoing drainage
   - consider thoracics consult for pleurodesis
   - f/u cytology
   .
   #. Axially DVT: Pt with axillary DVT at OSH. Although no radiology
   report. Pt was on heparin at OSH.  Will plan to continue for now.
   - cont heparin gtt
   - obtain records from [**Location (un) 4725**] regarding radiology report
   .
   #. Anemia: Pt with Hct 26.1, up from OSH of 24. No evidence of active
   bleeding, but on heparin gtt. s/p total 3Uprbcs
   - cont to monitor Hct q12
   - T&S
   - guaiac stools
   .
   #. Metabolic Alkalosis: Pt with bicarb of 38. Possibly from diuresis
   with lasix at OSH.  Has trended up over the last few days.
   - cont to trend
   .
   # FEN: low salt with supplements. Nutrition consult for poor po intake
   .
   # Access: R PICC
   .
   # PPx: PPI, bowel regimen, heparin gtt
   .
   # Code: FULL
   .
   #Dispo: [**Hospital 1025**] transfer to floor tomorrow
   .
   # Comm:   HCP [**Name (NI) **] [**Name (NI) 13038**]) [**Telephone/Fax (1) 13039**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-2-7**] 04:20 AM
   Multi Lumen - [**2154-2-7**] 09:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-02-09 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo woman w/ cirrhosis d/t hemochromatosis, c/b hepatic hydrothorax
   s/p TIPS [**2154-1-13**] w/ resultant encephalopathy. Complicated OSH course as
   described above. Active issues include acute hypoxemic resp failure,
   shock.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2154-2-8**] 11:08 AM
 BLOOD CULTURED - At [**2154-2-9**] 04:30 AM
   BC x 2
   -weaned off vasopressin last night after stress dose steroids started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefepime - [**2154-2-8**] 08:00 PM
   Linezolid - [**2154-2-9**] 02:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Lactulose
   Colace
   Protonix daily
   Hydrocortisone 50 IV q6
   Other ICU medications:
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unchanged
   Flowsheet Data as of  [**2154-2-9**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 67 (58 - 74) bpm
   BP: 117/52(75) {88/33(50) - 118/57(79)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 12 (2 - 21)mmHg
   Total In:
                                                                  2,436 mL
                                                                    424 mL
   PO:
   TF:
   IVF:
                                                                  1,801 mL
                                                                    424 mL
   Blood products:
                                                                    635 mL
   Total out:
                                                                  1,121 mL
                                                                    340 mL
   Urine:
                                                                    911 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,315 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: sitting up in bed eating breakfast, NAD
   HEENT: lost voice (whisper), PERRL
   Neck: some bruising around central line site
   CV: RRR, no m/r/g
   Lungs: diminished at right base. CT in place
   Abd: soft, NTND
   Extrem: tr. Edema both feet, warm, well perfused
   Neuro: no asterixis, alert, no focal deficits
   Labs / Radiology
   9.6 g/dL
   148 K/uL
   145 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   40 mg/dL
   99 mEq/L
   136 mEq/L
   29.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2154-2-7**]  04:35 AM
                             [**2154-2-7**]  04:38 AM
                             [**2154-2-7**]  08:34 AM
                             [**2154-2-7**]  02:18 PM
                             [**2154-2-7**]  05:46 PM
                             [**2154-2-7**]  10:40 PM
                             [**2154-2-8**]  05:20 AM
                             [**2154-2-8**]  05:44 AM
                             [**2154-2-8**]  04:47 PM
                             [**2154-2-9**]  04:19 AM
   WBC
   23.4
   27.0
   10.8
   6.7
   6.5
   Hct
   28.7
   27.3
   27.3
   25.7
   29.5
   29.0
   Plt
   [**Telephone/Fax (3) 13092**]57
   148
   Cr
   0.9
   0.9
   0.9
   1.0
   1.0
   1.0
   TropT
   0.02
   0.01
   0.02
   TCO2
   35
   34
   31
   Glucose
   176
   126
   99
   156
   178
   145
   Other labs: PT / PTT / INR:14.1/73.7/1.2, CK / CKMB /
   Troponin-T:14/2/0.02, ALT / AST:[**12-1**], Alk Phos / T Bili:105/3.3,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:3.0
   %, Lactic Acid:1.7 mmol/L, Albumin:4.7 g/dL, LDH:143 IU/L, Ca++:9.8
   mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   RUS US: TIPS patent, gallbladder sludge, no cholecystitis
   Assessment and Plan
   62 yo woman w/ cirrhosis d/t hemochromatosis, c/b hepatic hydrothorax
   s/p TIPS [**2154-1-13**] w/ resultant encephalopathy. Active issues include
   acute hypoxemic resp failure, shock.
   (1) ACUTE HYPOXEMIC RESP FAILURE- DDx includes underlying effusion,
   poss superimposed pna vs plug/ acute lobar collapse
   - extubated yesterday, now stable on 2L
   - bronch'd 2 days ago- BAL studies pending
   - treated empirically with cefepime and linezolid. Plan for 5 day
   course for ? PNA and d/c if cxs neg
   -Pleural effusion: likely hepatic hydrothorax, but will send fluid for
   chemistries. Cultures and cytology pending.  Once infection ruled out
   in fluid can pull CT.
   -hoarse/lost voice after extubation.  If not better in 24-48 hrs should
   have ENT eval to look at cords
   (2) SHOCK- DDx includes septic shock (sources include pulm, urine, GI,
   C diff), consider also cardiogenic, adrenal insuff
   -cont linezolid + cefepime
   -cultures negative
   -failed [**Last Name (un) 402**] stim --> hydrocort q6
   -echo looked reasonable
   (3) CIRRHOSIS- c/b encephalopathy and hydrothorax
   -cont lactulose
   -hold Aldactone and Lasix given shock state
   -f/u RUQ U/S, poss TIPS revision if too small
   -trend LFTs and coags
   (4) AXILLARY DVT- cont heparin gtt
   (5) CANDIDAL UTI- changed foley
   (6) ID: shock, ? infectious vs AI cause. Continue linez and cefepime x
   5 days empirically.  Flagyl prophylactically for c-diff (has history)
   ICU Care
   Nutrition: regular diet. Reported some coughing with thin liquids.  Try
   again with supervision, and speech and swallow eval if coughing
   Glycemic Control:  RISS
   Lines:
   Arterial Line - [**2154-2-7**] 04:20 AM
   Multi Lumen - [**2154-2-7**] 09:03 PM
   Prophylaxis:
   DVT: heparin gtt for DVT
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :call out today
   Total time spent: 35 min